US08084448B2
G. Methanesulfonic Acid 7-oxo-6,7-dihydro-5H-dibenzo[c,e]azepin-5-ylmethyl Ester
To a solution of 7-hydroxymethyl-6,7-dihydro-dibenzo[c,e]azepin-5-one in pyridine (2 mL) at 0° C. is added MsCl. The mixture is stirred at 0° C. for 20 min then is quenched with ice/water. The mixture is extracted with EtOAc and the organic phase is dried over magnesium sulfate and the solvent is removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | 7-hydroxymethyl-6,7-dihydro-dibenzo[c,e]azepin-5-one | OCC1C2=C(C3=C(C(N1)=O)C=CC=C3)C=CC=C2 | C15H13NO2
reactant | MsCl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | Methanesulfonic Acid 7-oxo-6,7-dihydro-5H-dibenzo[c,e]azepin-5-ylmethyl Ester | O=C1C2=C(C3=C(C(N1)COS(=O)(=O)C)C=CC=C3)C=CC=C2 | C16H15NO4S
